US08034812B2
Production of N-{6-[3-(but-2-ynoylamino)-4-methylphenoxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide
Using 2-butynoic acid (78 mg, 0.93 mmol), tetrahydrofuran (4.0 mL), N,N-dimethylformamide (20 μL, 0.26 mmol), oxalyl chloride (81 μL, 0.93 mmol), N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.62 mmol) and N,N-dimethylacetamide (4.0 mL), and in the same manner as in Example 238, the title compound (47 mg, 20%) was obtained as a white powder.

reactant | 2-butynoic acid | 0.93 mmol, 78 mg | C(C#CC)(=O)O | C4H4O2
reactant | N,N-dimethylformamide | 0.26 mmol, 20 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.93 mmol, 81 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.62 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
product | N-{6-[3-(but-2-ynoylamino)-4-methylphenoxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide | 47 mg, 20% | C(C#CC)(=O)NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C21H19N5O3
